US08975267B2
4-[4-(ethoxycarbonyl)-5-methyl-1H-pyrrol-3-yl]butanoic acid
6-amino-5-oxohexanoic acid hydrochloride (9.73 g, 49.8 mmol) was dissolved in H2O (35 mL), and ethyl acetoacetate (5.51 g, 42.34 mmol) and AcONa (20.3 g, 14.95 mmol) were added to the above-mentioned solution. The reaction solution was refluxed for 1 h, cooled to room temperature and 0.5N HCl was added until a pH of about 5 was reached. The combined organic layers were anidrified on Na2SO4, filtered and concentrated to give 7.15 g (yield: 60%) of the title compound as brown solid.

reactant | 6-amino-5-oxohexanoic acid hydrochloride | 49.8 mmol, 9.73 g | Cl.NCC(CCCC(=O)O)=O
reactant | ethyl acetoacetate | 42.34 mmol, 5.51 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | AcONa | 14.95 mmol, 20.3 g | C(=O)(C)O[Na]
reactant | HCl | 0.5N | Cl | ClH
solvent | H2O | 35 mL | O | H2O
product | 4-[4-(ethoxycarbonyl)-5-methyl-1H-pyrrol-3-yl]butanoic acid | 7.15 g, yield: 60% | C(C)OC(=O)C=1C(=CNC1C)CCCC(=O)O | C12H17NO4
